US06288082B1
4-[3-Chloro-4-(1-methyl-2-imidazolylthio)phenylamino]-6,7-dimethoxy-3-quinolinecarbonitrile
In the manner of Example 141 reaction of 4-chloro-6,7-dimethoxy-3-quinolinecarbonitrile with 3-chloro-4-(1-methyl-2-imidazolylthio)aniline (WO-9615118) gave the title compound as a white solid, mp 302-307° C.

reactant | 4-chloro-6,7-dimethoxy-3-quinolinecarbonitrile | ClC1=C(C=NC2=CC(=C(C=C12)OC)OC)C#N | C12H9ClN2O2
reactant | 3-chloro-4-(1-methyl-2-imidazolylthio)aniline | ClC=1C=C(N)C=CC1SC=1N(C=CN1)C | C10H10ClN3S
product | 4-[3-Chloro-4-(1-methyl-2-imidazolylthio)phenylamino]-6,7-dimethoxy-3-quinolinecarbonitrile | ClC=1C=C(C=CC1SC=1N(C=CN1)C)NC1=C(C=NC2=CC(=C(C=C12)OC)OC)C#N | C22H18ClN5O2S
